US04247543
(b) Boc-Tyr-(D)-Ala-Gly-Phe-NHNH2
43 g of Boc-Tyr-(D)-Ala-Gly-Phe-OCH3 are dissolved in 300 ml of methanol and 35 ml of hydrazine hydrate are added. After one day at room temperature, the mixture is evaporated and the residue is triturated with water which has been acidified to pH 3 with HCl. The precipitated product is filtered and dried to yield the title compound. M.P. 195° (decomp.). [α]D20 =-20.9 (C=1 in DMF).

reactant | Boc-Tyr-(D)-Ala-Gly-Phe-OCH3 | 43 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C29H38N4O8
reactant | hydrazine hydrate | 35 ml | O.NN
solvent | methanol | 300 ml | CO | CH4O
product | Boc-Tyr-(D)-Ala-Gly-Phe-NHNH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OC(C)(C)C | C28H38N6O7
